US06358973B1
2-(3-Methoxy-phenyl)-3-methyl-butyronitrile
By working in a way similar to that described in example 16 but using 3-methoxy-phenyl-acetonitrile (4.4 g, 30 mmoles), anhydrous DMF (40 ml), NaH (55-65%, 1.44 g, 36.3 mmoles) and 2-bromo-propane (4.46 g, 36.3 mmoles), 4.53 g of the title compound were obtained (yield: 79.9%).

reactant | 3-methoxy-phenyl-acetonitrile | 30 mmoles, 4.4 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | NaH | 36.3 mmoles, 1.44 g | [H-].[Na+]
reactant | 2-bromo-propane | 36.3 mmoles, 4.46 g | BrC(C)C | C3H7Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-(3-Methoxy-phenyl)-3-methyl-butyronitrile | 4.53 g, yield: 79.9% | COC=1C=C(C=CC1)C(C#N)C(C)C | C12H15NO
